US08193164B2
Step AA2: Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester
(1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2-enol (9.5 g, 35.05 mmol) is placed in an oven-dried flask under an atmosphere of argon. Dry THF (200 mL) is added followed by dry pyridine (5.54 g, 70.1 mmol). Ethyl chloroformate (15.21 g, 140.2 mmol) is added slowly so that the temperature does not rise above 40° C. and the reaction mixture is stirred at RT. The reaction is shown to be complete by LCMS after 1 hour. The solvent is removed in vacuo and the residue is partitioned between DCM (200 mL) and water (200 mL). The organic layer is washed with water (150 mL) and brine (150 mL), dried over MgSO4, filtered and the solvent is removed in vacuo. The title compound is obtained after crystallisation from methanol.

reactant | (1S,4R)-4-(2,6-Dichloro-purin-9-yl)-cyclopent-2-enol | 35.05 mmol, 9.5 g | ClC1=NC(=C2N=CN(C2=N1)[C@H]1C=C[C@H](C1)O)Cl | C10H8Cl2N4O
reactant | pyridine | 70.1 mmol, 5.54 g | N1=CC=CC=C1 | C5H5N
reactant | Ethyl chloroformate | 140.2 mmol, 15.21 g | ClC(=O)OCC | C3H5ClO2
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Carbonic acid (1S,4R)-4-(2,6-dichloro-purin-9-yl)-cyclopent-2-enyl ester ethyl ester | C(C)OC(O[C@@H]1C=C[C@@H](C1)N1C2=NC(=NC(=C2N=C1)Cl)Cl)=O | C13H12Cl2N4O3
